US06689779B2
Preparation of 2-Acetoxyacetylamino-5-bromopyridine
In 29 ml of methylene chloride was dissolved 1 g of 2-amino-5-bromopyridine which was then reacted with 0.93 ml of acetoxyacetyl chloride in the presence of 1.61 ml of triethyl amine at room temperature for 1 hour with stirring. Water was added to the reaction mixture before extraction with methylene chloride. The organic layer thus obtained was washed with brine, dehydrated, filtered and concentrated in vacuo. Recrystallization of the concentrate in ethyl ether gave the title compound. 615 mg.

reactant | 2-amino-5-bromopyridine | 1 g | NC1=NC=C(C=C1)Br | C5H5BrN2
reactant | acetoxyacetyl chloride | 0.93 ml | C(C)(=O)OCC(=O)Cl | C4H5ClO3
reactant | triethyl amine | 1.61 ml | C(C)N(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | methylene chloride | 29 ml | C(Cl)Cl | CH2Cl2
product | 2-Acetoxyacetylamino-5-bromopyridine | C(C)(=O)OCC(=O)NC1=NC=C(C=C1)Br | C9H9BrN2O3
